US08372842B2
tert-Butyl 4-(5-cyclopropyl-3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.35 g, 0.59 mmol), Cu(I)I (113 mg, 0.59 mmol), KF on Al2O3 (40%) (241 mg, 4.15 mmol), 1,10-phenanthroline (107 mg, 0.59 mmol) and MeOH (1.2026 mL, 29.688 mmol) were placed in toluene (3 mL), degassed under argon, and then heated to 110° C. overnight. The reaction was then cooled to room temperature. EtOAc was added, and the reaction was filtered through celite and washed with EtOAc. The filtrate was then concentrated, and the resulting residue was purified by column chromatography (1:1 hexanes:EtOAc) to give the product tert-butyl 4-(5-cyclopropyl-3-methoxy-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.21 g, 71% yield).

reactant | tert-Butyl 4-(5-cyclopropyl-3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.59 mmol, 0.35 g | C1(CC1)C=1C(=C2C(=NC1)N(N=C2I)CC2=CC=C(C=C2)OC)N2CCN(CC2)C(=O)OC(C)(C)C | C26H32IN5O3
reactant | KF | [F-].[K+]
reactant | 1,10-phenanthroline | 0.59 mmol, 107 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | MeOH | 29.688 mmol, 1.2026 mL | CO | CH4O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-(5-cyclopropyl-3-methoxy-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.21 g, 71% yield | C1(CC1)C=1C(=C2C(=NC1)N(N=C2OC)CC2=CC=C(C=C2)OC)N2CCN(CC2)C(=O)OC(C)(C)C | C27H35N5O4
